US08486952B2
To a solution of (1S,2R)-2-(3,4,5-trifluorophenyl)cyclopentanol (1 g, 4.63 mmol) in CH2Cl2 (20 mL) was added Dess-Martin periodinane (2.354 g, 5.55 mmol). The reaction mixture was stirred at rt for 1 h. The reaction was diluted with dichloromethane and quenched with the addition of 1 N NaOH. The organic layer was collected, dried (Na2SO4) and concentrated. The crude product was purified by column chromatography on silica gel to afford 2-(3,4,5-trifluorophenyl)cyclopentanone (310 mg, 1.447 mmol, 31.3% yield). LC-MS (M+H)+=215.1.

reactant | (1S,2R)-2-(3,4,5-trifluorophenyl)cyclopentanol | 4.63 mmol, 1 g | FC=1C=C(C=C(C1F)F)[C@@H]1[C@H](CCC1)O | C11H11F3O
reactant | Dess-Martin periodinane | 5.55 mmol, 2.354 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(3,4,5-trifluorophenyl)cyclopentanone | 1.447 mmol, 310 mg, 31.3% yield | FC=1C=C(C=C(C1F)F)C1C(CCC1)=O | C11H9F3O
